US06043360
2-(4-Methoxyphenyl)-6-Methoxybenzothiophene
The p-toluene sulfonic acid mono hydrate (310 mg, 1.6 mmol) in 25 ml of chlorobenzene is placed in a 25 ml, 3-neck round bottom flask fitted with a thermometer, nitrogen gas inlet, 10 ml addition funnel, reflux condenser, Dean-Stark trap with drying tube, magnetic stirrer, and heating mantle. 10 ml of solvent is distilled off and bromine (0.08 ml, 1.55 mmol) is added followed by thiodesoxyanisoin (700 mg, 1.6 mmol) in 10 ml of chlorobenzene over 5 minutes. After stirring at reflux for 15 minutes the reaction is allowed to cool to room temperature. A precipitate forms and is filtered off. The filter cake is washed with 50 ml of chlorobenzene. The filtrate is washed with water (2×50 ml), 5% sodium bicarbonate, 50 ml water, and 50 ml of 10% aqueous sodium chloride. The organics are dried over sodium sulfate and concentrated. The crude product is purified by silica gel chromatography then triturated with chlorobenzene. The side product solid is filtered off and the filtrate concentrated. The residue is triturated with ethyl acetate and filtered to give 10.8 mg of pure product. (0.25%). 1H NMR.

reactant | p-toluene sulfonic acid mono hydrate | 1.6 mmol, 310 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | bromine | 1.55 mmol, 0.08 ml | BrBr | Br2
reactant | thiodesoxyanisoin | 1.6 mmol, 700 mg | C1(=CC=C(OC)C=C1)C(=S)CC1=CC=C(OC)C=C1 | C16H16O2S
solvent | chlorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(4-Methoxyphenyl)-6-Methoxybenzothiophene | 10.8 mg | COC1=CC=C(C=C1)C=1SC2=C(C1)C=CC(=C2)OC | C16H14O2S
